US08258134B2
A solution of 3-cyclopentyl-2-(4-methoxy-6-oxo-6H-pyridazin-1-yl)-propionic acid methyl ester (458.8 mg, 1.63 mmol) in methanol (1.09 mL, 1.5M) was treated with a 4N aqueous sodium hydroxide solution (0.45 mL, 1.8 mmol) and was stirred at 25° C. overnight. At this time, the reaction was concentrated in vacuo. The residue was partitioned between water (100 mL), which was then acidified with a 2N aqueous hydrochloric acid solution to pH=2, and a 90/10 methylene chloride/methanol solution. The reaction was then extracted with a 90/10 methylene chloride/methanol solution (3×75 mL). The combined organics were dried over sodium sulfate, filtered and concentrated in vacuo to afford 3-cyclopentyl-2-(4-methoxy-6-oxo-6H-pyridazin-1-yl)-propionic acid (430 mg, 98%) as a white solid; ES+-HRMS m/e calcd for C13H18N2O4 [M+Na+] 289.1159, found 289.1159. 1H NMR (300 MHz, DMSO-d6) δ ppm 0.93-1.22 (m, 2H), 1.33-1.78 (m, 7H), 1.84-2.03 (m, 1H), 2.06-2.21 (m, 1H), 3.82 (s, 3H), 5.32 (dd, J=10.9, 3.9 Hz, 1H), 6.30 (d, J=2.7 Hz, 1H), 7.82 (d, J=2.7 Hz, 1H), 12.96 (br. s., 1H).

reactant | 3-cyclopentyl-2-(4-methoxy-6-oxo-6H-pyridazin-1-yl)-propionic acid methyl ester | 1.63 mmol, 458.8 mg | COC(C(CC1CCCC1)N1N=CC(=CC1=O)OC)=O | C14H20N2O4
reactant | sodium hydroxide | 1.8 mmol, 4N, 0.45 mL | [OH-].[Na+]
solvent | methanol | 1.5M, 1.09 mL | CO | CH4O
product | 3-cyclopentyl-2-(4-methoxy-6-oxo-6H-pyridazin-1-yl)-propionic acid | 430 mg, 98% | C1(CCCC1)CC(C(=O)O)N1N=CC(=CC1=O)OC | C13H18N2O4
